US08476288B2
(i) Methyl 2-(4-(cyanomethyl)benzyl)-3-oxobutanoate
A stirred mixture of methyl 3-hydroxy-2-methylenebutanoate (70.0 g), 2-(4-bromophenyl)acetonitrile (126.5 g), PdCl2[P(o-tol)3]2 (4.2 g) and triethylamine (108.9 g) in acetonitrile (280 mL) was heated under nitrogen at 70° C. for 6 hours. The mixture was cooled to room temperature, diluted with toluene (840 mL) and water (840 mL) and stirred for 10 minutes. The organic layer was separated, washed with water (840 mL) and concentrated under reduced pressure to give the subtitle compound as a red oil, 158.7 g. This product was used in the next step without further purification.

reactant | methyl 3-hydroxy-2-methylenebutanoate | 70.0 g | OC(C(C(=O)OC)=C)C | C6H10O3
reactant | 2-(4-bromophenyl)acetonitrile | 126.5 g | BrC1=CC=C(C=C1)CC#N | C8H6BrN
reactant | triethylamine | 108.9 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 280 mL | C(C)#N | C2H3N
solvent | toluene | 840 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 840 mL | O | H2O
product | Methyl 2-(4-(cyanomethyl)benzyl)-3-oxobutanoate | C(#N)CC1=CC=C(CC(C(=O)OC)C(C)=O)C=C1 | C14H15NO3
